US04484000
41.4 Parts of 2-t-butylhydroquinone, 15.3 parts of diethyl 2-ethoxycarbonyl-5-methyl-hex-4-ene-2-phosphonate, and 5.0 parts of Fulmont®237 are stirred at 130° C. for 24 hours. The cooled reaction is diluted with ether, washed with 10% sodium hydroxide solution and then with water. After stripping off the ether, the residual oil is distilled and gives a fraction b0.4 89°-156° C. and a residue. This residue is chromatographed on a column established from 150 parts silica, and an initial solvent mixture comprising petroleum-ether (b.p. 40°-60° C.) and 5% ethylacetate. Column elution is carried out by increasing the percentage of ether, and ultimately with 50% ether present, diethyl 5-(4'-t-butyl-2',5'-dihydroxyphenyl)-2-ethoxycarbonyl-5-methyl-hexane-2-phosphonate is obtained as a viscous oil with the following percentage composition by weight.

reactant | 2-t-butylhydroquinone | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | diethyl 2-ethoxycarbonyl-5-methyl-hex-4-ene-2-phosphonate | C(C)OC(=O)C(C)(CC=C(C)C)P(OCC)(=O)OCC | C14H27O5P
reactant | ether | CCOCC | C4H10O
product | diethyl 5-(4'-t-butyl-2',5'-dihydroxyphenyl)-2-ethoxycarbonyl-5-methyl-hexane-2-phosphonate | C(C)(C)(C)C1=CC(=C(C=C1O)C(CCC(C)(P(OCC)(=O)OCC)C(=O)OCC)(C)C)O | C24H41O7P
